US07968734B2
(S)-2-(trifluoro methane sulfonylamino methyl)-1-N-Cbz-pyrrolidine.
To a solution of (S)-2-Aminomethyl-1-N-Cbz-pyrrolidine (2.0 g, 8.55 mmol) and TEA (1.43 mL, 10.3 mmol) in 40 mL of CaH2 dried CH2Cl2 was added trifluoromethanesulfonic anhydride (1.6 mL, 9.4 mmol) dropwisely by a syringe pump over 1 h at 0° C. under N2. The resulting solution was stirred for 4.5 h at rt, then diluted with 80 mL of CH2Cl2 and washed with 50 mL of 1N HCl aqueous solution. The organic layer was dried over MgSO4, and concentrated in vacuo. Flash chromatography (Ethyl Acetate/Hexane=1/7) afforded a colorless oil in 76% yield (2.38 g, 6.50 mmol). [α]D −27.7 (c 1.0, CHCl3); 1H NMR (500 MHz, CDCl3): δ 7.68 (s, 1H), 7.10-7.39 (m, 5H), 5.15 (q, 2H), 3.98-4.09 (m, 1H), 3.24-3.57 (m, 4H), 2.12 (m, 1H), 1.88 (m, 2H), 1.67 (m, 1H); 13C NMR (125 MHz, CDCl3): δ 157.7, 136.2, 128.8, 128.6, 128.5, 128.3, 68.0, 58.1, 49.9, 47.5, 30.0, 24.1. HRMS (FAB) calcd for C14H18F3N2O4S (M+1) m/z 367.0939. Found 367.0928.

reactant | (S)-2-Aminomethyl-1-N-Cbz-pyrrolidine | 8.55 mmol, 2.0 g | NC[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | trifluoromethanesulfonic anhydride | 9.4 mmol, 1.6 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(trifluoro methane sulfonylamino methyl)-1-N-Cbz-pyrrolidine | 76% yield | FC(S(=O)(=O)NC[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)(F)F | C14H17F3N2O4S
